US05486585
2-methylindene (47.2 g) was dissolved in ether (400 ml) and n-butyl lithium (145.2 ml, 2.5M in Hexane) was added dropwise over 3 hours. The mixture was stirred for 2.5 hours. After evaporation of the solvent, the residual solid was washed twice with n-pentane (400 ml). Drying under vacuum gave 2-methylindenyl lithium (42 g, 85%) as a pale brown powder.

reactant | 2-methylindene | 47.2 g | CC=1CC2=CC=CC=C2C1 | C10H10
reactant | n-butyl lithium | 2.5M, 145.2 ml | C(CCC)[Li]
solvent | ether | 400 ml | CCOCC | C4H10O
product | 2-methylindenyl lithium | 42 g, 85% | CC=1C(C2=CC=CC=C2C1)[Li] | InChI=1S/C10H9.Li/c1-8-6-9-4-2-3-5-10(9)7-8;/h2-7H,1H3;
